### PR TITLE
[Merged by Bors] - chore(GroupWithZero/WithZero): reorganize variable names

### PR DESCRIPTION
**Pull request by faenuccio**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 1]
```diff
@@ -442,15 +442,16 @@ end WithZero
 
 namespace MonoidWithZeroHom
 
-protected lemma map_eq_zero_iff {G₀ G₀' : Type*} [GroupWithZero G₀]
-    [MulZeroOneClass G₀'] [Nontrivial G₀']
-    {f : G₀ →*₀ G₀'} {x : G₀} :
+variable {G₀ : Type*} [GroupWithZero G₀]
+
+protected lemma map_eq_zero_iff {M₀ : Type*} [MulZeroOneClass M₀] [Nontrivial M₀]
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]: It's already declared by this point, right?
```suggestion
protected lemma map_eq_zero_iff [MulZeroOneClass M₀] [Nontrivial M₀]
```

Comment (faenuccio) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: Probably yes!

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 1 above)
Comment (faenuccio) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: Well, actually no...

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 2]
```diff
@@ -442,15 +442,16 @@ end WithZero
 
 namespace MonoidWithZeroHom
 
-protected lemma map_eq_zero_iff {G₀ G₀' : Type*} [GroupWithZero G₀]
-    [MulZeroOneClass G₀'] [Nontrivial G₀']
-    {f : G₀ →*₀ G₀'} {x : G₀} :
+variable {G₀ : Type*} [GroupWithZero G₀]
+
+protected lemma map_eq_zero_iff [MulZeroOneClass M₀] [Nontrivial M₀]
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]:
```suggestion
protected lemma map_eq_zero_iff {M₀ : Type*} [MulZeroOneClass M₀] [Nontrivial M₀]
```

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 3]
```diff
@@ -442,15 +442,16 @@ end WithZero
 
 namespace MonoidWithZeroHom
 
-protected lemma map_eq_zero_iff {G₀ G₀' : Type*} [GroupWithZero G₀]
-    [MulZeroOneClass G₀'] [Nontrivial G₀']
-    {f : G₀ →*₀ G₀'} {x : G₀} :
+variable {G₀ : Type*} [GroupWithZero G₀]
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]: Why are we adding this for just one lemma? There are a handful more lemmas below, which then don't use this variable.

Comment (faenuccio) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: Good point! I've bundled this to the lemma below. @eric-wieser does it seem OK to you now?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 4]
```diff
@@ -442,15 +442,13 @@ end WithZero
 
 namespace MonoidWithZeroHom
 
-protected lemma map_eq_zero_iff {G₀ G₀' : Type*} [GroupWithZero G₀]
-    [MulZeroOneClass G₀'] [Nontrivial G₀']
-    {f : G₀ →*₀ G₀'} {x : G₀} :
-    f x = 0 ↔ x = 0 := by
+protected lemma map_eq_zero_iff {G₀ : Type*} [GroupWithZero G₀] {M₀ : Type*} [MulZeroOneClass M₀]
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]:
```suggestion
protected lemma map_eq_zero_iff {G₀ M₀ : Type*} [GroupWithZero G₀] [MulZeroOneClass M₀]
```

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 5]
```diff
@@ -442,15 +442,13 @@ end WithZero
...
+    [Nontrivial M₀] {f : G₀ →*₀ M₀} {x : G₀} : f x = 0 ↔ x = 0 := by
   refine ⟨?_, by simp +contextual⟩
   contrapose!
   intro hx H
   lift x to G₀ˣ using isUnit_iff_ne_zero.mpr hx
-  apply one_ne_zero (α := G₀')
+  apply one_ne_zero (α := M₀)
   rw [← map_one f, ← Units.mul_inv x, map_mul, H, zero_mul]
 
 variable {M₀ N₀}
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]: This line does nothing and can be deleted.

Comment (faenuccio) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: Indeed, thanks!

**Comment by faenuccio** [comment]
@eric-wieser This is probably ok now, no?

**Comment by eric-wieser** [comment]
I was waiting for you to address https://github.com/leanprover-community/mathlib4/pull/29644#discussion_r2351783615

**Review by faenuccio — COMMENTED** [review]
> I was waiting for you to address https://github.com/leanprover-community/mathlib4/pull/29644#discussion_r2351783615 

Oh, my bad! I forgot to `push`... Now it should be OK @eric-wieser

**Review by eric-wieser — APPROVED** [review]
bors merge
